US06960598B2
5-Chloro-2-trifluoromethyl[1,8]naphthyridine (50 mg, 0.22 mmol) was coupled to 2-[3-(5,5-dimethyl[1,3,2]dioxaborinan-2-yl)phenoxymethyl]pyridine (83 mg, 0.28 mmol) as described in Example 7 part g), affording 5-[3-(pyridin-2-ylmethoxy)phenyl]-2-trifluoromethyl[1,8]naphthyridine (36 mg, 34%). δH (360 MHz, CDCl3) 5.28 (2H, s), 7.07-7.11 (2H, m), 7.20 (1H, dd, J 2.1 and 8.4), 7.23-7.30 (1H, m), 7.47-7.56 (3H, m), 7.73-7.78 (2H, m), 8.50 (1H, d, J 8.8), 8.61 (1H, d, J 4.6), 9.26 (1H, d, J 4.6). m/z (ES+) 382 [MH]+.

reactant | 5-Chloro-2-trifluoromethyl[1,8]naphthyridine | 0.22 mmol, 50 mg | ClC1=C2C=CC(=NC2=NC=C1)C(F)(F)F | C9H4ClF3N2
reactant | 2-[3-(5,5-dimethyl[1,3,2]dioxaborinan-2-yl)phenoxymethyl]pyridine | 0.28 mmol, 83 mg | CC1(COB(OC1)C=1C=C(OCC2=NC=CC=C2)C=CC1)C | C17H20BNO3
product | 5-[3-(pyridin-2-ylmethoxy)phenyl]-2-trifluoromethyl[1,8]naphthyridine | 36 mg, 34% | N1=C(C=CC=C1)COC=1C=C(C=CC1)C1=C2C=CC(=NC2=NC=C1)C(F)(F)F | C21H14F3N3O
